US07728131B2
4-(bromomethyl)-3-trifluoromethylbenzoic acid
To 60.0 g of 4-methyl-3-trifluoromethylbenzoic acid was added 600 ml of isopropyl acetate. Under stirring at room temperature, a solution of 133.0 g of sodium bromate in 420 ml of water and a solution of 91.7 g of sodium hydrogensulfite in 180 ml of water were added in turn. The mixture was gradually heated from 30° C. up to 50° C. at intervals of 10° C. and stirred until the color of the reaction solution disappeared. The aqueous layer was separated to remove, and to the organic layer were added a solution of 133.0 g of sodium bromate in 420 ml of water and a solution of 91.7 g of sodium hydrogensulfite in 180 ml of water, and then the mixture was gradually heated up to 60° C. as above. After separation, to the organic layer were further added a solution of 133.0 g of sodium bromate in 420 ml of water and a solution of 91.7 g of sodium hydrogensulfite in 180 ml of water, and the mixture was gradually heated as above and heated to the temperature the mixture was finally refluxed. After the completion of the reaction, the reaction solution was separated, the organic layer was washed twice with a 5% aqueous sodium thiosulfate solution and twice with 15% saline, dried over anhydrous magnesium sulfate, and, then the solvent was distilled off under reduced pressure. To the residue was added 120 ml of n-heptane, the mixture was stirred, and then the crystals were collected by filtration to obtain 50.0 g of the objective compound as colorless crystals.

reactant | 4-methyl-3-trifluoromethylbenzoic acid | 60.0 g | CC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C9H7F3O2
reactant | isopropyl acetate | 600 ml | C(C)(=O)OC(C)C | C5H10O2
reactant | sodium bromate | 133.0 g | Br(=O)(=O)[O-].[Na+]
reactant | sodium hydrogensulfite | 91.7 g | S(=O)(O)[O-].[Na+]
solvent | water | 420 ml | O | H2O
solvent | water | 180 ml | O | H2O
product | 4-(bromomethyl)-3-trifluoromethylbenzoic acid | 50.0 g | BrCC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C9H6BrF3O2
